US07576064B2
3-Benzyloxy-1-isopropyl-4-(4-methoxybenzoyl)-5-phenoxy-1H-pyrazole
3-Benzyloxy-5-bromo-1-isopropyl-4-(4-methoxybenzoyl)-1H-pyrazole (43 mg), phenol (14 mg) and potassium carbonate (21 mg) were suspended in N,N-dimethylacetoamide (5 mL) and the mixture was stirred under reflux for 2 hours. The mixture was allowed to cool to room temperature, then 10% citric acid aqueous solution was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was sequentially washed with a saturated sodium hydrogen carbonate and brine. After the solution was dried over anhydrous magnesium sulfate, the solvent was removed under reduced pressure. The obtained residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=5/1) to give the title compound, (24 mg).

reactant | 3-Benzyloxy-5-bromo-1-isopropyl-4-(4-methoxybenzoyl)-1H-pyrazole | 43 mg | C(C1=CC=CC=C1)OC1=NN(C(=C1C(C1=CC=C(C=C1)OC)=O)Br)C(C)C | C21H21BrN2O3
reactant | phenol | 14 mg | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 21 mg | C([O-])([O-])=O.[K+].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | N,N-dimethylacetoamide | 5 mL | CN(C(C)=O)C | C4H9NO
product | 3-Benzyloxy-1-isopropyl-4-(4-methoxybenzoyl)-5-phenoxy-1H-pyrazole | 24 mg | C(C1=CC=CC=C1)OC1=NN(C(=C1C(C1=CC=C(C=C1)OC)=O)OC1=CC=CC=C1)C(C)C | C27H26N2O4
